US08685977B2
4-((3,4-dichlorophenyl)(hydroxy)methyl)-3-methoxybenzonitrile
To a solution of 4-bromo-3-methoxybenzonitrile (606 mg, 2.86 mmol) in dry THF (10 mL) was added iso-propylmagnesium chloride (2 M in diethylether, 1.54 mL, 3.09 mmol) slowly via microsyringe. To the reaction mixture was added 3,4-dichlorobenzaldehyde (270 mg, 1.54 mmol) in dry THF (1 mL) via syringe. After 1 hour at room temperature saturated aqueous NH4Cl (20 mL) was added and the mixture extracted with EtOAc (3×20 mL). The combined organics were concentrated in vacuo and taken through to the next step as crude.

reactant | 4-bromo-3-methoxybenzonitrile | 2.86 mmol, 606 mg | BrC1=C(C=C(C#N)C=C1)OC | C8H6BrNO
reactant | iso-propylmagnesium chloride | 3.09 mmol, 2 M, 1.54 mL | C(C)(C)[Mg]Cl
reactant | 3,4-dichlorobenzaldehyde | 1.54 mmol, 270 mg | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-((3,4-dichlorophenyl)(hydroxy)methyl)-3-methoxybenzonitrile | ClC=1C=C(C=CC1Cl)C(C1=C(C=C(C#N)C=C1)OC)O | C15H11Cl2NO2
